US06365652B2
bis(2,2,6,6-tetramethylpiperid-4-yl) succinate;
bis(2,2,6,6-tetramethylpiperid-4-yl) sebacate; bis(1,2,2,6,6-pentamethylpiperid-4-yl) sebacate; bis(1-octyloxy-2,2,6,6-tetramethylpiperid-4-yl) sebacate; di(1,2,2,6,6-pentamethylpiperid-4-yl) 2-n-butyl-2-(3,5-di-tert-butyl-4-hydroxybenzyl)malonate; 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl methacrylate; 2-(2-hydroxyethylamino)-4,6-bis(4-n-butylamino-1,2,2,6,6-pentamethylpiperidyl)-1,3,5-triazine; tetra(2,2,6,6-tetramethylpiperid-4-yl) butane-1,2,3,4-tetracarboxylate; tetra(1,2,2,6,6-pentamethylpiperid-4-yl) butane-1,2,3,4-tetracarboxylate; 2,2,4,4-tetramethyl-7-oxa-3,20-diaza-21-oxo-dispiro[5.1.11.2]heneicosane; 3-dodecyl-1-(2,2,6,6-tetramethylpiperidin-4-yl)pyrrolidin-2,5-dione; 3-dodecyl-1-(1-acetyl-2,2,6,6-tetramethylpiperidin-4-yl)pyrrolidin-2,5-dione, propanedioic acid, [(4-methoxyphenyl)methylene]-, bis(1,2,2,6,6-pentamethyl-4-piperidinyl) ester; propanedioic acid, [(4-methoxyphenyl)methylene]-, bis(1-acetyl-2,2,6,6-pentamethyl-4-piperidinyl) ester.

reactant | bis(2,2,6,6-tetramethylpiperid-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C28H52N2O4
reactant | bis(1,2,2,6,6-pentamethylpiperid-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(=O)OC1CC(N(C(C1)(C)C)C)(C)C | C30H56N2O4
reactant | bis(1-octyloxy-2,2,6,6-tetramethylpiperid-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C44H84N2O6
reactant | di(1,2,2,6,6-pentamethylpiperid-4-yl) 2-n-butyl-2-(3,5-di-tert-butyl-4-hydroxybenzyl)malonate | C(CCC)C(C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C42H72N2O5
reactant | 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl methacrylate | C(C(=C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C21H39NO3
reactant | 2-(2-hydroxyethylamino)-4,6-bis(4-n-butylamino-1,2,2,6,6-pentamethylpiperidyl)-1,3,5-triazine | OCCNC1=NC(=NC(=N1)C1C(N(C(CC1NCCCC)(C)C)C)(C)C)C1C(N(C(CC1NCCCC)(C)C)C)(C)C | C33H64N8O
reactant | tetra(2,2,6,6-tetramethylpiperid-4-yl) butane-1,2,3,4-tetracarboxylate | C(C(C(CC(=O)OC1CC(NC(C1)(C)C)(C)C)C(=O)OC1CC(NC(C1)(C)C)(C)C)C(=O)OC1CC(NC(C1)(C)C)(C)C)C(=O)OC1CC(NC(C1)(C)C)(C)C | C44H78N4O8
reactant | tetra(1,2,2,6,6-pentamethylpiperid-4-yl) butane-1,2,3,4-tetracarboxylate | C(C(C(CC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)C(=O)OC1CC(N(C(C1)(C)C)C)(C)C | C48H86N4O8
reactant | 3-dodecyl-1-(2,2,6,6-tetramethylpiperidin-4-yl)pyrrolidin-2,5-dione | C(CCCCCCCCCCC)C1C(N(C(C1)=O)C1CC(NC(C1)(C)C)(C)C)=O | C25H46N2O2
reactant | 3-dodecyl-1-(1-acetyl-2,2,6,6-tetramethylpiperidin-4-yl)pyrrolidin-2,5-dione | C(CCCCCCCCCCC)C1C(N(C(C1)=O)C1CC(N(C(C1)(C)C)C(C)=O)(C)C)=O | C27H48N2O3
reactant | propanedioic acid | C(CC(=O)O)(=O)O | C3H4O4
product | bis(2,2,6,6-tetramethylpiperid-4-yl) succinate | C(CCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C22H40N2O4
